US06288061B1
Ethyl 2-hydroxyimino-3-(4-nitrophenyl)-3-oxopropionate and 4-nitrobenzylamine are reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 2,5-bis(4-nitrophenyl)imidazole-4-carboxylate, which is dissolved in ethyl alcohol. 1 M Sodium hydroxide solution is added and the mixture is reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 2,5-bis(4-nitrophenyl)imidazole-4-carboxylic acid.

reactant | Ethyl 2-hydroxyimino-3-(4-nitrophenyl)-3-oxopropionate | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H10N2O6
reactant | 4-nitrobenzylamine | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
product | ethyl 2,5-bis(4-nitrophenyl)imidazole-4-carboxylate | [N+](=O)([O-])C1=CC=C(C=C1)C=1NC(=C(N1)C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C18H14N4O6
